US07696223B2
c) {[4-Hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 6(a) from {[2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid, ammonium formate and Pd/C. The title compound, ESI MS (m/z): 356 (M+H)+.

reactant | {[2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | BrC1=C(C=2C(=CN=C(C2O)C(=O)NCC(=O)O)N1CC1=CC=C(C=C1)OC)Br | C18H15Br2N3O5
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | {[4-Hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | OC1=C2C(=CN=C1C(=O)NCC(=O)O)N(C=C2)CC2=CC=C(C=C2)OC | C18H17N3O5
